US07488832B2
To [2-(4-methoxy-phenyl)-5-phenyl-pyrrol-1-yl]-acetic acid (3.4 g, 11.0 mmol) dissolved in anhydrous MeOH (200 mL) and cooled to 0° C. is added chlorotrimethylsilane (1.40 mL, 11.0 mmol). The mixture is refluxed for ˜12 h. The contents are concentrated in vacuo. The crude product is purified by flash chromatography on silica gel (10% hexanes/ethyl acetate) to give-(2,5-Diphenyl-pyrrol-1-yl)-acetic acid methyl ester as a yellow solid (2.68 g), characterized by LCMS (Obs: 322.56, Cal: 321.14) and 1H NMR.

reactant | [2-(4-methoxy-phenyl)-5-phenyl-pyrrol-1-yl]-acetic acid | 11.0 mmol, 3.4 g | COC1=CC=C(C=C1)C=1N(C(=CC1)C1=CC=CC=C1)CC(=O)O | C19H17NO3
reactant | chlorotrimethylsilane | 11.0 mmol, 1.40 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | MeOH | 200 mL | CO | CH4O
product | (2,5-Diphenyl-pyrrol-1-yl)-acetic acid methyl ester | 2.68 g | COC(CN1C(=CC=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C19H17NO2
